Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
grass pollen
 
Attending: ___.
 
Chief Complaint:
___ and ___

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female transferred to ___ from ___ with a
small right convexity acute SAH. The patient is intoxicated with
a etoh level of 265 at the OSH prior to transfer and is confused
surrounding the events leading to her presentation to ___.
She reportedly has suffered approximately several falls 3 days
ago and states that she experienced fainting spells prior to
falling. She states she may have even blacked out. She states
that her family was concerned and brought her to ___ for
evaluation. She states she had a headache earlier today and took
2 full-strength Aspirin with good effect. She no longer endorses
a headache. She denies CP, SOB, fever, chills, nausea or
vomiting.

 
Past Medical History:
Anxiety
s/p multiple surgeries in the past, but unable to state the 
types
of surgeries

 
Social History:
___
Family History:
NC.

 
Physical Exam:
======================
ADMISSION EXAM
======================
T: 98.4  BP: 105/69   HR: 105  RR: 16   O2Sats 98% RA
Gen: Sitting on stretcher wearing hard cervical collar. 
HEENT: Pupils: 7-5mm bilaterally. EOMs intact throughout.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with confusion surrounding the events
leading to this hospitalization. No dysarthria or paraphasic
errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 7mm to
5mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch bilaterally.
.
.
================
DISCHARGE EXAM
================
Temp 99.3F Max; 102-138/56-83, HR 57-75, RR 16, 99% on RA
MS - Alert, able to relate history
CN - PERRL, EOMI, symmetric smile
Motor ___ in Deltoids, biceps, triceps, ECR, IP, TA
No pronator drift. 
SEnsory - b/l sensation intact
Coordination - FNF intact. 
 
Pertinent Results:
___ - CT Head:
Small area of acute SAH in the right convexity and low right
frontal contusions.
.
___ - Labs:
___ RBC  Hgb  Hct  MCV MCH  MCHC RDW  RDWSD Plt Ct 
6.4 4.11 13.5 40.3 98  32.8 33.5 11.9 43.4  166 
___ 9.7  PTT 28.6  INR 0.9 
Glucose UreaN Creat Na  K   Cl  HCO3 AnGap 
88      8     0.7   139 3.5 ___ 
 .
TOXICOLOGY
ASA  Ethanol Acetmnp Bnzodzp Barbitr Tricycl 
NEG  154     NEG     NEG2    NEG     NEG3 
 .
.
___ CT HEAD W/O CONTRAST 1610
IMPRESSION:  
  
1.  No definite interval change in multiple intraparenchymal 
hyperdensities, the largest in the right temporal lobe.  The 
etiology is uncertain.  It appears unlikely that all are 
hemorrhagic contusions, and the possibilities of malignancy and 
primary vascular lesions should be considered. This would be 
best evaluated with MRA imaging 
  
2.  No change in the small curvilinear hyperdensity in the 
superior right 
frontal lobe, possibly subarachnoid blood. 
  
3.  No definite new focal hemorrhage. 
  
4.  Less conspicuous but persistent left parietal scalp 
hematoma. 
  
5.  No change in the non-specific left frontal calvarial lesion 
which could represent an osteoid osteoma or fibrous dysplasia.  
Please refer to the prior report on any recommendations. 
  
6.  Cortical atrophy. 
.
___ MRI WITH & W/O CONTRAST
1. Markedly motion degraded study which was aborted prior to 
acquisition of MPRAGE images secondary to patient discomfort 
limiting the evaluation. 
2. Multiple relatively stable areas of intraparenchymal 
hemorrhage with 
associated FLAIR signal abnormality as described above.  
Evaluation for 
enhancement on postcontrast images is markedly limited given the 
motion 
artifact.  These are indeterminate in etiology and possibilities 
include 
underlying intracranial metastasis, cyst or septic emboli.  
Hemorrhagic 
posttraumatic contusions are possible though favored to be less 
likely given the distribution and site of these lesions.  
Further evaluation with repeat MRI of the brain can be performed 
on a later date as clinically indicated. 
3. Few punctate foci of slow diffusion in bilateral posterior 
frontal and 
parietal lobes, could be small punctate infarcts in the 
watersheddistribution. 
4. Prominent FLAIR hyperintense subdural collections suggestive 
of subdural hygromas. 
.
___ CT CHEST W/ CONTRAST
No evidence of traumatic findings. 
Pulmonary nodule endobronchial secretions that should be 
reassessed together with a left hilar lymph node in 6 months for 
documentation of stability. 
.
___ CT ABDOMEN/PELVIS 
IMPRESSION:  
  
No traumatic abdominopelvic abnormality. 
.
___ ECHOCARDIOGRAM
The left atrial volume index is normal. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

 IMPRESSION: No structural cardiac cause of syncope seen. Normal 
global and regional biventricular systolic function.  
.
___ MRI BRAIN WITH AND WITHOUT CONTRAST
  
1.  Multiple unchanged foci of intraparenchymal hemorrhage with 
associated 
adjacent edema.  Given the lack of clear enhancement in these 
lesions, 
metastatic disease is somewhat less likely, but underline 
neoplasm cannot be 
entirely excluded.  Recommend followup contrast-enhanced MR 
imaging following 
resolution of hemorrhage product. 
  
2.  Scattered punctate foci of restricted diffusion not 
associated with the 
hemorrhages, which may represent small watershed versus embolic 
infarcts. 
  
3.  Bilateral FLAIR hyperintense subdural collections, 
suggestive of effusion. 
  
4.  Hyperintense signal on postcontrast FLAIR sequences 
interdigitating within 
the sulci at the vertex.  This may be secondary to vessel 
enhancement, however 
subarachnoid hemorrhage or leptomeningeal process are 
considerations.  There 
is no associated postcontrast leptomeningeal enhancement on MP 
RAGE or T1 
turbo spin echo sequences.  Clinical correlation is recommended. 

.
___ CTA HEAD AND NECK
1. No aneurysms.  Patent circle of ___. 
2. Unchanged intraparenchymal hematomas in the right 
frontotemporal lobes. 
3. No new hemorrhages. 
4. Unchanged, small bifrontal subdural fluid collections. 
.
___ BONE SCAN
IMPRESSION:  No evidence of radiotracer avid metastatic disease.
.
___ THYROID US 
Normal thyroid ultrasound. No thyroid nodules identified. 

 
Brief Hospital Course:
___ y/o female transferred to ___ from ___ with multiple 
intraparenchymal hemorrhages on the right side and a small right 
convexity acute SAH in the setting of intoxication and fall with 
head strike. She was initially admitted to the neurosurgical 
service who found her hemorrhages stable and non operable. She 
was transferred to the neurologic service when the well 
circumscribed nature of her hemorrhages raised concern for 
alternative etiologies for her IPH aside from trauma underlying 
malignancy vs septic emboli. 
.
Repeat MRI brain with and without contrast confirmed bleeds in R 
temporal, parietal, and frontal lobes with no contrast 
enhancement but unable to exclude hemorrhagic metastases as well 
as watershed strokes. A repeat MRI in 4 weeks was recommended. 
.
Prophylactic Keppra was started and continued at 500mg BID.  
.
As part of her malignancy workup, she was seen by dermatology 
who did not find any suspicious skin lesions but they 
recommended an outpatient evaluation for a more thorough 
evaluation. Breast exam did not reveal any masses. She was 
recommended to get her scheduled routine cancer screening 
including colonoscopy, mammogram, and pap screen. Thyroid US 
negative for nodules. Bone scan read negative for bony 
metastases. CEA was elevated at 8.2 and CA 125 was wnl - these 
should be continued to be worked up by her outpatient providers. 
Neuro-oncology and radiation-oncology were consulted and will 
follow her if needed as an outpatient. 
.
Regarding her trauma eval, ACS was consulted and suggested 
syncope workup (echo/telemetry/EKG which were all within normal 
limits) and CT torso (unremarkable for trauma and also did not 
show any masses). During evaluation with OT, she was initially 
orthostatic which improved with a small bolus. 
.
Septic emboli were thought to be extremely unlikely given how 
well she appeared - she was also afebrile and without 
leukocytosis during this admission.  TTE showed no intracardiac 
thrombus or endocarditis. CTA head does not show any mycotic 
aneurysm or intracranial atherosclerosis. Blood cultures and HIV 
negative. 
.
___ consults were ordered saw the patient and OT had some 
concern for cognitive impairment. She had a MOCA score of 22 
signifying mild cognitive impairment which should continue to be 
followed as an outpatient. She was independent with her ___ 
evaluation. Social work was consulted for concern of ETOH abuse 
and family concerns. She was also started on thiamine and 
folate. 
.
====================
TRANSITIONAL ISSUES
====================
- Outpatient dermatology exam
- Outpatient MRI in 4 wks
- Cancer screening: screening colonoscopy, skin exam done by a 
dermatologist, and an appropriately timed mammogram after 
discharge. 
- Started on Keppra in order to prevent seizures due to the 
location of your brain bleeds. Please continue this until told 
otherwise by your neurologist. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam ___ mg PO BID:PRN anxiety 
2. Propranolol Dose is Unknown  PO BID:PRN public speaking 

 
Discharge Medications:
1. Lorazepam ___ mg PO BID:PRN anxiety 
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. LeVETiracetam 500 mg PO BID 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0
4. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
5. Propranolol Dose is Unknown  PO BID:PRN public speaking 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Temporal contusion and intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

___ were admitted after traumatic brain injury after a fall and 
were found to have multiple bleeds on the right side of your 
brain that were not typical for bleeds from trauma. 

Therefore an extensive workup was done as an evaluation for 
possible other causes for the bleeds including malignancy/tumor. 
___ had a CT of your chest/abdomen/pelvis that was negative for 
malignancy. ___ also had a thyroid ultrasound that was negative 
as well as bone scan that was normal. Several blood tests were 
sent and ___ will be notified if these are abnormal. ___ also 
had an echocardiogram that was negative for any clot in your 
heart or infection in your heart as a cause for your brain 
bleeds and small strokes. 

___ did have a skin exam by dermatology which was negative but 
they would like ___ to follow up as an outpatient for a 
full/thorough exam. 

The bleeds in your brain may be affecting your thinking on our 
assessment. Therefore, your son and your mother will help ___ at 
home after your discharge. 

After this workup, the etiology of your bleeds is still unclear. 
___ should obtain a Brain MRI as an outpatient 4 weeks after 
discharge and this will be reviewed by both Neurology and Dr 
___. This scan will help us decide if there is 
a tumor underlying these bleeds. If the scans still look 
suspicious, a brain biopsy may be pursued. 

___ should get a screening colonoscopy, skin exam done by a 
dermatologist, and an appropriately timed mammogram after 
discharge. 

___ were started on Keppra in order to prevent seizures due to 
the location of your brain bleeds. Please continue this until 
told otherwise by your neurologist. 
==========================================
Traumatic Brain Injury
Activity
•We recommend that ___ avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
___ make take leisurely walks and slowly increase your 
activity at your own pace once ___ are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If ___ experienced a seizure while admitted, ___ are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. ___ 
should avoid contact sports for 6 months. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
___ have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that ___ take this medication consistently and on 
time. 
___ may use Acetaminophen (Tylenol) for minor discomfort if 
___ are not otherwise restricted from taking this medication.

What ___ ___ Experience:
___ may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If ___ are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but ___ should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
___ were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If ___ would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if ___ experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___